US07402696B2
1.00 g (4.29 mmole) of 4-(3-methylbutylamino)-3-nitrobenzonitrile was dissolved in 10 mL of DMF, 0.205 g (5.14 mmoles) of NaH was added, and the mixture was stirred for 10 minutes at room temperature. 0.5 mL (5.14 mmole) of methyl iodide was added and the mixture was stirred overnight at room temperature. When the reaction had ended, the solvent was removed under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate. The residue was washed with saturated brine and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure, yielding a nitrobenzene intermediate. Next, the nitrobenzene intermediate was dissolved in 20 mL of ethanol, 50 percent NH2OH aqueous solution was added, and the mixture was stirred overnight at 50° C. When the reaction had ended, the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography, yielding 1.46 g of amideoxime intermediate.

reactant | 4-(3-methylbutylamino)-3-nitrobenzonitrile | 4.29 mmole, 1.00 g | CC(CCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C12H15N3O2
reactant | NaH | 5.14 mmoles, 0.205 g | [H-].[Na+]
reactant | methyl iodide | 5.14 mmole, 0.5 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
